.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


* Deivce Parameters:
*--------------
.param PW= 0.63
.param AD = {PW*0.3}
.param AS={PW*0.3}
.param PS={2*(PW+0.3)} 
.param PD={2*(PW+0.3)}

.param PW1= 1.26
.param AD1 = {PW1*0.3}
.param AS1={PW1*0.3}
.param PS1={2*(PW1+0.3)}
.param PD1={2*(PW1+0.3)}

.param PWn= 0.42
.param ADn = {PWn*0.3}
.param ASn={PWn*0.3}
.param PSn={2*(PWn+0.3)}
.param PDn={2*(PWn+0.3)}

*------------Inveter for first input and load --------------
.subckt INVX1 A VPWR VGND Y
X0 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

.ends


.subckt DFF D CLK CLKb VPWR VGND Q Qb
X2 Qd1 CLK D VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
X3 Qd1 CLKb D VGND sky130_fd_pr__nfet_01v8 L=0.15 w={PWn} as={ASn} ad={ADn} ps={PSn} pd={PDn}
*TG2
X4 Qd1 CLKb Qb VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
X5 Qd1 CLK Qb VGND sky130_fd_pr__nfet_01v8 L=0.15 w={PWn} as={ASn} ad={ADn} ps={PSn} pd={PDn}

*INV Qd-> Q
X6 Q1 Qd1 VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X7 Q1 Qd1 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

*INV Q-> Qb
X8 Qb1 Q1 VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X9 Qb1 Q1 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15


*IN Q1-> D2

*TG3
X10 Qd2 CLKb Q1 VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
X11 Qd2 CLK Q1 VGND sky130_fd_pr__nfet_01v8 L=0.15 w={PWn} as={ASn} ad={ADn} ps={PSn} pd={PDn}
*TG4
X12 Qd2 CLK Qb VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW} as={AS} ad={AD} ps={PS} pd={PD}
X13 Qd2 CLKb Qb VGND sky130_fd_pr__nfet_01v8 L=0.15 w={PWn} as={ASn} ad={ADn} ps={PSn} pd={PDn}

*INV Qd-> Q
X14 Q Qd2 VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X15 Q Qd2 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

*INV Q-> Qb
X16 Qb2 Q VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X17 Qb2 Q VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

.ends  

* The voltage source:
*--------------------------------------------------------
VDD vdd 0 DC 1.8

VIN1 CLK 0 PULSE(1.8 0 0 10p 10p 2n 4n)
*VIN3 CLKb 0 PULSE(0 1.8 0 10p 10p 1n 2n)
VIN2 D 0 PULSE(1.8 0 0 10p 10p 1n 3n)
.tran 1p 20n
*--------------------------------------------------------
XINV3 D vdd 0 Db INVX1
XINV2 CLK vdd 0 CLKb INVX1
XDFF1 D CLK CLKb vdd 0 Y outb DFF
XINV4 Y vdd 0 out INVX1
XINV1 out vdd 0 load INVX1

*Cload out 0 10f
    
*--------------------------------------------------------
.meas tran tr TRIG V(out) VAL=0.36 RISE=1 TARG V(out) VAL=1.44 RISE=1
.meas tran tf TRIG V(out) VAL=1.44 FALL=1 TARG V(out) VAL=0.36 FALL=1


*.meas tran tphl TRIG V(in1) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1
**.meas tran tplh TRIG V(in1) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1

* Power drawn from VDD.  The minus sign is required because SPICE reports
* current entering the positive terminal of VDD (a delivering source is negative).
* Measure 4 ns to 8 ns to exclude the initial transient; this is one full cycle.
*.meas tran pavg AVG par('-v(vdd)*i(VDD)') FROM=4n TO=8n
*.meas tran energy_per_cycle INTEG par('-v(vdd)*i(VDD)') FROM=4n TO=8n
*--------------------------------------------------------


.control
run

plot V(CLK) V(D) V(out)
*plot  V(in1) V(out)
*meas tran VM find V(out) when V(in1)=V(out) cross=-1
*print VM

.endc

.end
